US07812043B2
1-(4-Acetylamino-benzyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide
R5X=N-(4-chloromethylphenyl)-acetamide; NH2A=2-aminothiazole; Indole starting material=methyl indole 3-carboxylate

reactant | N-(4-chloromethylphenyl)-acetamide | ClCC1=CC=C(C=C1)NC(C)=O | C9H10ClNO
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
reactant | Indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | methyl indole 3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OC | C10H9NO2
product | 1-(4-Acetylamino-benzyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)NC(C)=O | C21H18N4O2S
